US05574056
Preparation of 1-(1,3-benzodioxol-5-yl)-4,4-dimethyl-1-penten-3-one (Intermediate Compound 38, Table 5)
To a mixture of pinacolone (55 g) and piperonal (75 g) in ethanol (200 ml) was added a sodium hydroxide (5.0 g) in water (115 ml) solution. The mixture solidified after stirring at room temperature for 2 days. Filtration collected 137 g of solid which was then dissolved in ethyl acetate (500 ml), washed with water (500 ml), and dried over anhydrous magnesium sulfate. Concentration and trituration in hexane yielded 104.5 g of colorless solid product, mp 94°-96° C. Using essentially the same procedures, additional alpha, beta-unsaturated ketones were prepared as intermediates and are listed in Table 5. [see Pace, E, Atti Acad Lincei, [6], 9, 778 (1929); Chemical Abstracts, 23, 4942, 1929].

reactant | pinacolone | 55 g | CC(C(C)(C)C)=O | C6H12O
reactant | piperonal | 75 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | sodium hydroxide | 5.0 g | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 115 ml | O | H2O
product | 1-(1,3-benzodioxol-5-yl)-4,4-dimethyl-1-penten-3-one | 104.5 g | O1COC2=C1C=CC(=C2)C=CC(C(C)(C)C)=O | C14H16O3
